US09388168B2
Preparation of 1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-ylamine
N-[1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-2,2-dimethyl-propionamide (1.42 g, 5 mmol) was dissolved in methanol (15 ml), and water (3 ml) was added in one portion. NaOH (1.67 g, 40 mmol) was added in one portion. The mixture was stirred at 70° C. for 40 h. HPLC indicated the conversation was 2.8%. No further workup.

reactant | N-[1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-2,2-dimethyl-propionamide | 5 mmol, 1.42 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C(C)(C)C)=O)C | C14H23N3O3
reactant | water | 3 ml | O | H2O
reactant | NaOH | 40 mmol, 1.67 g | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-ylamine | CC1(OC[C@H](O1)CN1N=C(C=C1)N)C | C9H15N3O2
